US05606051
5- Benzyl-1-methyl-3-(tri-n-butylstannyl)pyrazole
4-Benzyl-3-methyl-1,2,3-oxadiazol-5-one (0.600 g) and ethynyltri-n-butyltin (2.5 ml) were dissolved in xylene (10 ml) and heated to 140° C. under argon for 16 h. The solvent was then evaporated and the residue was chromatographed over silica gel. Elution with a gradient of 0 to 10% acetone/toluene gave the product as a yellow oil (0.189 g); dH (CDCl3) 0.8-1.7 (27H, m), 3.77 (3H, s), 4.00 (2H, s), 6.09 (1H, s), 7.10-7.40 (5H, m).

reactant | 4-Benzyl-3-methyl-1,2,3-oxadiazol-5-one | 0.600 g | C(C1=CC=CC=C1)C1N(NOC1=O)C | C10H12N2O2
reactant | ethynyltri-n-butyltin | 2.5 ml | C(#C)[Sn](CCCC)(CCCC)CCCC
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5- Benzyl-1-methyl-3-(tri-n-butylstannyl)pyrazole | 0.189 g | C(C1=CC=CC=C1)C1=CC(=NN1C)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C11H11N2.3C4H9.Sn/c1-13-11(7-8-12-13)9-10-5-3-2-4-6-10;3*1-3-4-2;/h2-7H,9H2,1H3;3*1,3-4H2,2H3;
